US07790756B2
To a solution of 7-(5-amino-3-t-butyl-pyrazol-1-yl)-3,4-dihydro-2H-isoquinolin-1-one hydrochloride from Example B29 (20 g, 0.070 mol) in THF (400 mL) was added LAH (15 g, 0.395 mol) in portions at 0-5° C. The resulting mixture was heated at reflux overnight, followed by the addition of 10% NaOH solution. After stirring for 1 h at RT, Boc2O (23 g, 0.106 mol) was added and the solution stirred overnight. After filtration, the filtrate was concentrated to afford the crude product, which was purified by reverse phase chromatography to give 7-(5-amino-3-t-butyl-pyrazol-1-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid t-butyl ester (12 g, 75% yield). 1H NMR (300 MHz, DMSO-d6) δ 7.32 (s, 1H), 7.29 (d, J=2.7 Hz, 1H), 7.18 (d, J=8.4 Hz, 1H), 5.32 (s, 1H), 5.15 (s, 1H), 4.51 (s, 2H), 3.52 (t, J=5.6 Hz, 2H), 2.75 (t, J=5.6 Hz, 2H), 1.40 (s, 9H), 1.17 (s, 9H); MS (ESI) m/z: 371 (M+H+).

reactant | 7-(5-amino-3-t-butyl-pyrazol-1-yl)-3,4-dihydro-2H-isoquinolin-1-one hydrochloride | Cl.NC1=CC(=NN1C1=CC=C2CCNC(C2=C1)=O)C(C)(C)C
reactant | LAH | 0.395 mol, 15 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | [OH-].[Na+]
reactant | Boc2O | 0.106 mol, 23 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 7-(5-amino-3-t-butyl-pyrazol-1-yl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid t-butyl ester | 12 g, 75% yield | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)N1N=C(C=C1N)C(C)(C)C | C21H30N4O2
